US09227930B2
To a solution of ethyl 1-benzyl-1-hydroxy-6-methoxy-2,3-dihydro-1H-inden-2-ylcarbamate (184 mg, 0.539 mmol) in toluene (4 ml) was added methanesulfonic acid (3.50 μl, 0.054 mmol) and stirred at room temperature over night. The solution was evaporated, re-dissolved in dichloromethane, washed with sodium bicarbonate and brine, dried over sodium bicarbonate and evaporated to dryness to obtain the desired (Z)-ethyl 1-benzylidene-6-methoxy-2,3-dihydro-1H-inden-2-ylcarbamate as a pale yellow oil. m=154 mg (88%)

reactant | ethyl 1-benzyl-1-hydroxy-6-methoxy-2,3-dihydro-1H-inden-2-ylcarbamate | 0.539 mmol, 184 mg | C(C1=CC=CC=C1)C1(C(CC2=CC=C(C=C12)OC)NC(OCC)=O)O | C20H23NO4
reactant | methanesulfonic acid | 0.054 mmol, 3.50 μl | CS(=O)(=O)O | CH4O3S
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | (Z)-ethyl 1-benzylidene-6-methoxy-2,3-dihydro-1H-inden-2-ylcarbamate | C(/C1=CC=CC=C1)=C\1/C(CC2=CC=C(C=C12)OC)NC(OCC)=O | C20H21NO3
